US04281003
1-(2-CHLORO-6-FLUOROBENZOYL)-3-(5-BROMO-2-PYRIDINYL)UREA
An 0.4 g. portion of 5-bromo-2-aminopyridine was dissolved in 20 ml. of acetonitrile, and was reacted with 0.5 g. of 2-chloro-6-fluorobenzoyl isocyanate as described in Example 1. The yield was 0.5 g. of the desired product, m.p. 207°-213° C. Elemental analysis gave the following results:

reactant | 5-bromo-2-aminopyridine | BrC=1C=CC(=NC1)N | C5H5BrN2
reactant | 2-chloro-6-fluorobenzoyl isocyanate | ClC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3ClFNO2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(2-CHLORO-6-FLUOROBENZOYL)-3-(5-BROMO-2-PYRIDINYL)UREA | ClC1=C(C(=O)NC(=O)NC2=NC=C(C=C2)Br)C(=CC=C1)F | C13H8BrClFN3O2
